US05055464
In 500 ml of methanol is dissolved 1.8 g of ethyl 2-p-methoxyphenyl- 3-(2-naphthalenecarboxamido)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, into which ammonia gas is blown under ice-cooling for about 1 hour. After the mixture is allowed to stand still at room temperature for 3 days, the reaction mixture is concentrated under reduced pressure to the volume of about 50 ml to give crystals. The crystals are collected by filtration to give 1.2 g of 2-p-methoxyphenyl-3-(2-naphthalenecarboxamido)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide, m.p. 243°-245° C.

reactant | ethyl 2-p-methoxyphenyl- 3-(2-naphthalenecarboxamido)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 1.8 g | COC1=CC=C(C=C1)C1SC2=C(N(C(C1NC(=O)C1=CC3=CC=CC=C3C=C1)=O)CC(=O)OCC)C=CC=C2 | C31H28N2O5S
reactant | ammonia | N | H3N
solvent | methanol | 500 ml | CO | CH4O
product | 2-p-methoxyphenyl-3-(2-naphthalenecarboxamido)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide | 1.2 g | COC1=CC=C(C=C1)C1SC2=C(N(C(C1NC(=O)C1=CC3=CC=CC=C3C=C1)=O)CC(=O)N)C=CC=C2 | C29H25N3O4S
